US07700641B2
Synthesis of 5,6-dichloro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-criticial variations using 3-(4,5-dichloro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 43% yield. 1H NMR (300 MHz, CDCl3) δ 7.35 (td, 1H), 7.17-7.03 (m, 3H), 6.94 (d, 1H), 6.76 (s, 1H), 4.98 (d, 1H), 4.72 (d, 1H), 3.88-3.65 (m, 2H), 1.82-1.67 (m, 2H), 1.47-1.29 (m, 4H), 0.92 (t, 3H). 13C NMR (75 MHz, CDCl3) δ 176.2, 159.9, 142.5, 133.3, 131.5, 129.4, 124.6, 124.5, 123.9, 123.4, 112.4, 108.9, 80.8, 57.5, 40.5, 29.0, 27.1, 22.3, 14.0; MS (ES+) m/z 376 (M+1), 378 (M+1).

reactant | 3-(4,5-dichloro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1Cl)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H21Cl2NO3
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 5,6-dichloro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 43% yield | ClC=1C(=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2)Cl | C20H19Cl2NO2
